US09388161B2
A mixture of methyl (S)-6-bromo-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.096 g, 0.254 mmol), tert-butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)azetidine-1-carboxylate (0.113 g, 0.325 mmol), and cesium carbonate (0.264 g, 0.811 mmol) in dioxane (2.0 mL) and water (0.40 mL) was purged with nitrogen to remove any oxygen. XPhos Precatalyst 2nd Generation (0.020 g, 0.027 mmol) was added and the reaction was purged with nitrogen and then heated at 100° C. for 16 h. The reaction mixture was concentrated and the residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The aqueous phase was separated and extracted with ethyl acetate, and the combined organic phases were concentrated to afford an oil. This material was purified via column chromatography on silica gel (Biotage 10 g column, gradient elution with 25-50% ethyl acetate-hexane) to afford methyl (S)-6-(1-(1-(tert-butoxycarbonyl)azetidin-3-yl)-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate (0.132 g, 98%) as a colorless oil. MS (ESI, pos. ion) m/z 497 [M+H]+.

reactant | methyl (S)-6-bromo-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.254 mmol, 0.096 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C16H20BrNO3
reactant | tert-butyl 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)azetidine-1-carboxylate | 0.325 mmol, 0.113 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CN(C1)C(=O)OC(C)(C)C)C | C17H28BN3O4
reactant | cesium carbonate | 0.811 mmol, 0.264 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.40 mL | O | H2O
product | methyl (S)-6-(1-(1-(tert-butoxycarbonyl)azetidin-3-yl)-1H-pyrazol-4-yl)-5-cyclobutoxy-2-methyl-3,4-dihydroquinoline-1(2H)-carboxylate | 0.132 g, 98% | C(C)(C)(C)OC(=O)N1CC(C1)N1N=CC(=C1)C=1C(=C2CC[C@@H](N(C2=CC1)C(=O)OC)C)OC1CCC1 | C27H36N4O5
